US07329678B2
2-Amino-5-bromopyridine (5.0 g, 28.90 mmol), phenylboronic acid (7.05 g, 57.80 mmol), dichlorobis(triphenylphosphine)palladium(II) (1.01 g, 1.45 mmol), and 2M Na2CO3(aq) (24 mL, 48 mmol) were combined in 150 mL of dimethoxyethane and heated to reflux for 1 hour. Upon cooling, the reaction mixture was diluted with EtOAc and washed with H2O and brine. The solvent was removed to give an amber oil which was chromatographed on silica gel eluting with hexanes/ethyl acetate (1:1) to afford 5-phenylpyridin-2-amine (2.42 g) as a tan solid.

reactant | 2-Amino-5-bromopyridine | 28.90 mmol, 5.0 g | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | phenylboronic acid | 57.80 mmol, 7.05 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Na2CO3 | 48 mmol, 2M, 24 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dimethoxyethane | 150 mL | C(OC)COC | C4H10O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 1.45 mmol, 1.01 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-phenylpyridin-2-amine | 2.42 g | C1(=CC=CC=C1)C=1C=CC(=NC1)N | C11H10N2
